US08372864B2
1.1.4: N-[(1S,2R)-1-Benzyl-2-hydroxy-3-{[3-(trifluoromethyl)benzyl]amino}propyl]-1-oxo-2-(1-propylbutyl)isoindoline-4-carboxamide
136.4 mg of 1-oxo-2-(1-propylbutyl)isoindoline-4-carboxylic acid are dissolved in 8 cm3 of dichloromethane under an inert atmosphere at a temperature close to 20° C. 195 mg of ((2R,3S)-3-amino-4-phenyl-1-{[3-(trifluoromethyl)benzyl]amino}butan-2-ol hydrochloride (2:1), 9.6 mg of hydroxybenzotriazole, and 108.7 mg of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride are added to the solution. 0.308 cm3 of N,N-diisopropylethylamine is poured into the reaction medium. This is kept stirring for 20 h at 20° C. 10 cm3 of water are added to the reaction medium. The organic phase is washed with 10 cm3 of a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and concentrated using a rotary evaporator under reduced pressure (5 kPa). The 310 mg of beige gum obtained are purified by flash chromatography over silica (column: 15 g; particle size: 20-40 μm, spherical; flow rate: 20 cm3/min; eluent: 95% dichloromethane/5% methanol). After concentrating the fractions under reduced pressure, 110 mg of N-[(1S,2R)-1-benzyl-2-hydroxy-3-{[3-(trifluoromethyl)benzyl]amino}propyl]-1-oxo-2-(1-propylbutyl)isoindoline-4-carboxamide are obtained in the form of a beige foam.

reactant | 1-oxo-2-(1-propylbutyl)isoindoline-4-carboxylic acid | 136.4 mg | O=C1N(CC=2C(=CC=CC12)C(=O)O)C(CCC)CCC | C16H21NO3
reactant | (2R,3S)-3-amino-4-phenyl-1-{[3-(trifluoromethyl)benzyl]amino}butan-2-ol hydrochloride | Cl.N[C@H]([C@@H](CNCC1=CC(=CC=C1)C(F)(F)F)O)CC1=CC=CC=C1
reactant | hydroxybenzotriazole | 9.6 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 108.7 mg | Cl.CN(CCCN=C=NCC)C
reactant | N,N-diisopropylethylamine | 0.308 cm3 | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dichloromethane | 8 cm3 | ClCCl | CH2Cl2
solvent | water | 10 cm3 | O | H2O
product | N-[(1S,2R)-1-Benzyl-2-hydroxy-3-{[3-(trifluoromethyl)benzyl]amino}propyl]-1-oxo-2-(1-propylbutyl)isoindoline-4-carboxamide | 310 mg | C(C1=CC=CC=C1)[C@@H]([C@@H](CNCC1=CC(=CC=C1)C(F)(F)F)O)NC(=O)C=1C=2CN(C(C2C=CC1)=O)C(CCC)CCC | C34H40F3N3O3
